US05700819
To a solution of N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-methylglycine ethyl ester (290 mg, 0.8 mmol) in methanol (2 ml) was added 2N sodium hydroxide (0.5 ml, 1 mmol) and the mixture was stirred for 30 min. at room temperature. The reaction mixture was diluted with water and then washed with ether. The aqueous layer was acidified with 7% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, then dried and evaporated to yield a residue, which was recrystallized from ethanol-isopropyl ether to give N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-methylglycine (185 mg, 70%).

reactant | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-methylglycine ethyl ester | 0.8 mmol, 290 mg | C(C)OC(CN(C)C(CCC=1SC2=C(N1)C(=C(C=C2F)F)F)=O)=O | C15H15F3N2O3S
reactant | sodium hydroxide | 1 mmol, 2N, 0.5 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
product | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-methylglycine | 185 mg, 70% | FC1=C(C=C(C2=C1N=C(S2)CCC(=O)N(CC(=O)O)C)F)F | C13H11F3N2O3S
